US04645765
6,9-Dihydroxy-4-dimethoxymethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate (22 mg) and sodium bicarbonate (12 mg) were dissolved in water (0.5 ml). To the solution was added benzyl chloroformate (0.02 ml) with stirring in an ice-water bath. The mixture was stirred for 30 minutes in an ice-water bath and subjected to preparative thin layer chromatography. Development was carried out with a mixture of chloroform and methanol to afford 11-benzyloxycarbonyl-6,9-dihydroxy-4-dimethoxymethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate (15 mg).

reactant | 6,9-Dihydroxy-4-dimethoxymethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate | 22 mg | C(N)(OCC1C2=C(C=C(C=C2N2CC3NC3C1(O2)O)C(OC)OC)O)=O | C16H21N3O7
reactant | sodium bicarbonate | 12 mg | C([O-])(O)=O.[Na+]
reactant | benzyl chloroformate | 0.02 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | 0.5 ml | O | H2O
solvent | methanol | CO | CH4O
product | 11-benzyloxycarbonyl-6,9-dihydroxy-4-dimethoxymethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate | 15 mg | C(N)(OCC1C2=C(C=C(C=C2N2CC3N(C3C1(O2)O)C(=O)OCC2=CC=CC=C2)C(OC)OC)O)=O | C24H27N3O9
